US08865899B2
Benzyl 4-(benzyloxy)-5-methoxy-2-nitrobenzoate (90 g) was charged to acetonitrile (660 g). 85% Sodium dithionite (75 g) was added to the solution and the temperature adjusted to 20° C. Water (516 g) was then added, maintaining the temperature at 20° C. The slurry was then heated to 65° C. and stirred for 30 minutes. Sodium dithionite (75 g) was added and the mixture stirred for another 30 minutes. The lower aqueous phase was removed. Concentrated hydrochloric acid (33% w/w, 12.48 g) was then added to adjust to a pH of <1. The suspension is held for 1 hour. The slurry was cooled to 20° C. over 30 minutes. Sodium hydroxide solution (20% w/w, 59.29 g) was added to give a pH of 10. The slurry was cooled to 0° C. and stirred for one hour. The product (benzyl 2-amino-4-(benzyloxy)-5-methoxybenzoate) was isolated by filtration, washed twice with water (2×222 ml) and then dried at 60° C. under vacuum. Yield: 78.81 g, 95%; NMR Spectrum (CDCl3) 3.8 (s, 3H), 5.1 (s, 2H), 5.3 (s, 2H), 6.2 (s, 1H), 7.3-7.4 (m, 10H); Mass Spectrum (M+H)+=364.1.

reactant | Benzyl 4-(benzyloxy)-5-methoxy-2-nitrobenzoate | 90 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1OC)[N+](=O)[O-] | C22H19NO6
reactant | acetonitrile | 660 g | C(C)#N | C2H3N
reactant | Sodium dithionite | 75 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | Sodium dithionite | 75 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | Water | 516 g | O | H2O
product | benzyl 2-amino-4-(benzyloxy)-5-methoxybenzoate | NC1=C(C(=O)OCC2=CC=CC=C2)C=C(C(=C1)OCC1=CC=CC=C1)OC | C22H21NO4
